US20010021718A1
(3R)-6-Cyclohexyl-3-(3-{[3-(dimethylamino)-1-azetidinyl]carbonyl}-1,2,4-oxadiazol-5-yl)N-hydroxyhexanamide
A solution of (3R)-6-cyclohexyl-3-(3-{[3-(dimethylamino)-1-azetidinyl]carbonyl}-1,2,4-oxadiazol-5-yl)hexanoic acid (Preparation 76) (200 mg, 0.51 mmol) and N-methylmorpholine (112 μl, 1.00 mmol) in anhydrous tetrahydrofuran (15 ml) was cooled to 0° C., treated with isobutyl chloroformate (79 μl, 0.69 mmol) and stirred under a nitrogen atmosphere for 2 hours. O-(Trimethylsilyl)hydroxylamine (85 μl, 0.61 mmol) was added and the mixture was stirred for 18 hours, being allowed to warm to room temperature over this time. The mixture was then treated with methanol and stirred at room temperature for 2 hours. The solvent was removed under reduced pressure. The residue was dissolved in ethyl acetate (100 ml) and washed with water (2×25 ml) and brine (25 ml), dried over anhydrous sodium sulphate, filtered and the solvent removed under reduced pressure to afford the title compound as a foam (180 mg).

reactant | (3R)-6-cyclohexyl-3-(3-{[3-(dimethylamino)-1-azetidinyl]carbonyl}-1,2,4-oxadiazol-5-yl)hexanoic acid | 0.51 mmol, 200 mg | C1(CCCCC1)CCC[C@H](CC(=O)O)C1=NC(=NO1)C(=O)N1CC(C1)N(C)C | C20H32N4O4
reactant | N-methylmorpholine | 1.00 mmol, 112 μl | CN1CCOCC1 | C5H11NO
reactant | isobutyl chloroformate | 0.69 mmol, 79 μl | ClC(=O)OCC(C)C | C5H9ClO2
reactant | O-(Trimethylsilyl)hydroxylamine | 0.61 mmol, 85 μl | C[Si](ON)(C)C | C3H11NOSi
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | methanol | CO | CH4O
product | (3R)-6-Cyclohexyl-3-(3-{[3-(dimethylamino)-1-azetidinyl]carbonyl}-1,2,4-oxadiazol-5-yl)N-hydroxyhexanamide | 180 mg | C1(CCCCC1)CCC[C@H](CC(=O)NO)C1=NC(=NO1)C(=O)N1CC(C1)N(C)C | C20H33N5O4
